US07754742B2
(3-Hydroxymethyl-benzyl)-methyl-carbamic acid tert-butyl ester
Dissolve 3-[(tert-butoxycarbonyl-methyl-amino)-methyl]-benzoic acid methyl ester (1.70 g, 6.1 mmol) in tetrahydrofuran (60 mL) at 0° C. Add a 1M solution of lithium aluminum hydride in tetrahydrofuran (8 mL, 8 mmol) dropwise and stir for 2 hrs. Quench the reaction with water (3 mL), 5N sodium hydroxide solution (3 mL) and more water (9 mL), filter and concentrate. Purify the residue by chromatography (silica gel) eluting with 40-60% ethyl acetate/hexanes to provide the title compound (1.42 g, 93%).

reactant | 3-[(tert-butoxycarbonyl-methyl-amino)-methyl]-benzoic acid methyl ester | 6.1 mmol, 1.70 g | COC(C1=CC(=CC=C1)CN(C)C(=O)OC(C)(C)C)=O | C15H21NO4
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 60 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 8 mmol, 8 mL | O1CCCC1 | C4H8O
product | (3-Hydroxymethyl-benzyl)-methyl-carbamic acid tert-butyl ester | 1.42 g, 93% | C(C)(C)(C)OC(N(C)CC1=CC(=CC=C1)CO)=O | C14H21NO3
